US07593820B2
2-tert-Buty-1,6-dihydro-7H-benzo[h]furo[3,2-f]isoquinolin-7-one
A solution of 4-(5-tert-butyl-2-phenyl-3-furyl)pyridin-2(1H)-one (50 mg, 0.2 mmol) in THF (50 mL) was irradiated with a sun lamp for 5 h. The solution was then concentrated in vacuo and the product purified by flash chromatography using EtOAc-Pet. Spirit (80:20) as eluant, to separate the pure product as a cream solid (26 mg, 52%).

reactant | 4-(5-tert-butyl-2-phenyl-3-furyl)pyridin-2(1H)-one | 0.2 mmol, 50 mg | C(C)(C)(C)C1=CC(=C(O1)C1=CC=CC=C1)C1=CC(NC=C1)=O | C19H19NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-tert-Buty-1,6-dihydro-7H-benzo[h]furo[3,2-f]isoquinolin-7-one | C(C)(C)(C)C1=CC2=C3C=CNC(C3=C3C(=C2O1)C=CC=C3)=O | C19H17NO2
